US07524841B2
A mixed solution of 6-aza-1-oxaspiro[2.5]octane-6-carboxylic acid tert-butyl ester (10.0 g, 46.9 mmol) in benzene-ether (2:1) (750 mL) was cooled to 0° C., and after adding BF3.OEt2 (29.6 mL, 234 mmol) to the solution, it was stirred 1 hour. The reaction mixture was poured into ice-cooled 1N NaOH (500 ml) and stirred. After extraction with AcOEt (500 ml×3 times), the extract was washed with water and then with saturated brine, and finally dried over anhydrous MgSO4. The solvent was distilled off, and the crude product was purified by silica gel column chromatography (30% AcOEt/hexane) to obtain 4-fluoro-4-(hydroxymethyl)piperidinecarboxylic acid tert-butyl ester. The compound was identified by 1H-NMR. The yield was 4.26 g (39%).

reactant | 6-aza-1-oxaspiro[2.5]octane-6-carboxylic acid tert-butyl ester | 46.9 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | BF3.OEt2 | 234 mmol, 29.6 mL | B(F)(F)F.CCOCC
solvent | NaOH | 1N, 500 ml | [OH-].[Na+]
product | 4-fluoro-4-(hydroxymethyl)piperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)F | C11H20FNO3
